US05231102
b) Trans-5,7-dichloro-2-methoxycarbonyl-4-benzoylamino-1,2,3,4-tetrahydroquinoline
To a suspension of trans-4-amino-5,7-dichloro-2-methoxycarbonyl-1,2,3,4-tetrahydroquinoline hydrochloride (0.2 g, 0.642 mmol) in anhydrous dichloromethane (15 ml) was added dry triethylamine (220 ml, 1.4 mmol) and the resulting mixture was stirred at room temperature under an atmosphere of nitrogen until dissolution was complete. To this solution was added benzoyl chloride (82 ml, 0.706 mmol) and stirring was continued for 17 hours. The solvent was removed in vacuo and the residue was partitioned between ethyl acetate (100 ml) and dilute citric acid (150 ml). The organic layer was washed successively with saturated sodium bicarbonate solution (2×50 ml) and brine (50 ml) then dried (MgSO4) and evaporated to give the crude product (0.26 g) which was recrystallised from ethyl acetate/petroleum ether (bp 60°-80° C.) to give the pure title compound as colourless crystals (0.201 g, m.p. 258°-259° C.); δ (360 MHz, DMSO) 1.79 (1H, ddd, J= 13.3, 12.6 and 4.1 Hz, CHACHBHCCHD), 2.28 (1H, dm, J=13.3 Hz, CHACHBHCCHD), 3.73 (3H, s, --CO2CH3), 4.09 (1H, dm, J=12.6 Hz, CHACHBHCCHD), 5.28 (1H, m, CHACHBHCCHD), 6.70 (1H, d, J=2.0 Hz, 6-H or 8-H), 6.91 (1H, d, J=2.0 Hz, 6-H or 8-H), 6.93 (1H, s, NH), 7.42-7.55 (3H, m, ArH), 7.89 (2H, d, J=7.1 Hz, ArH), 8.72 (1H, d, J=7.6 Hz, PhCONH-); m/e (CI+) 379 (M+1)+, 122 (100%); Found: C, 56.95; H, 4.30; N, 7.37; C18H16Cl2N2O3 requires C, 57.01; H, 4.25; N, 7.39%.

reactant | trans-4-amino-5,7-dichloro-2-methoxycarbonyl-1,2,3,4-tetrahydroquinoline hydrochloride | 0.642 mmol, 0.2 g | Cl.N[C@H]1C[C@@H](NC2=CC(=CC(=C12)Cl)Cl)C(=O)OC
reactant | triethylamine | 1.4 mmol, 220 ml | C(C)N(CC)CC | C6H15N
reactant | benzoyl chloride | 0.706 mmol, 82 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
product | Trans-5,7-dichloro-2-methoxycarbonyl-4-benzoylamino-1,2,3,4-tetrahydroquinoline | 0.201 g | ClC1=C2[C@H](C[C@@H](NC2=CC(=C1)Cl)C(=O)OC)NC(C1=CC=CC=C1)=O | C18H16Cl2N2O3
